US04279918
2-(4-bromobenzyl)-1-methylpyrrolidine
Hydrogenate 21.5 g of 2-(4-bromobenzylidene)-1-methylpyrrolidine in 400 ml of ethanol with platinum on activated charcoal/hydrogen. Filter out the catalyst, concentrate the filtrate and distil the residue to obtain 18.5 g (85% of theory) of the title compound (b.p. 70° at 0.001 mm of Hg).

reactant | 2-(4-bromobenzylidene)-1-methylpyrrolidine | 21.5 g | BrC1=CC=C(C=C2N(CCC2)C)C=C1 | C12H14BrN
solvent | ethanol | 400 ml | C(C)O | C2H6O
catalyst | platinum on activated charcoal hydrogen | [Pt].[H][H]
product | 2-(4-bromobenzyl)-1-methylpyrrolidine | BrC1=CC=C(CC2N(CCC2)C)C=C1 | C12H16BrN
